US07572821B2
To a stirred solution of [3-(4-methoxy-phenyl)-oxiranyl]-(3,4,5-trimethoxy-phenyl)-methanone (0.5 g, 1.45 mmol) in dry ether (15 mL) was added BF3.Et2O (2.52 mL) slowly. After the addition, it was heated to reflux for 1 h. After the reaction mixture had cooled to room temperature, it was poured into ice-H2O (100 mL). The etheral layer was separated and the aquous layer was extracted with ether (10 mL×3). The combined ether layers were washed with H2O (20 mL×2) and concentrated to dryness. The residue was then transferred with EtOH (3 mL) to a flask suited for a microwave reactor, and hydroxylamine hydrochloride (0.32 g, 4.6 mmol) and pyridine (1 mL) were added. The mixture was heated and stirred in a microwave reactor at 130° C. for 30 min. The reaction mixture was then cooled to room temperature and poured into ice-H2O (20 mL). The solid material was collected and washed with H2O. After preparative HPLC or repeated solvating gas chromatography (SGC) (hexane to 14% Hexane/EtOAc), the product 4-(4-Methoxy-phenyl)-5-(3,4,5-trimethoxy-phenyl)-isoxazole was obtained as a light yellow solid. 1H-NMR (CDCl3) δ 3.70 (s, 6H), 3.82 (s, 3H), 3.85 (s, 3H), 6.85 (s, 2H), 6.94 (d, 2H, J=8), 7.33 (d, 2H, J=8), 8.30 (s, 1H) ppm; ESMS calcd for C19H19NO5: 341.0; found: 342.0 (M+H+).

reactant | [3-(4-methoxy-phenyl)-oxiranyl]-(3,4,5-trimethoxy-phenyl)-methanone | 1.45 mmol, 0.5 g | COC1=CC=C(C=C1)C1C(O1)C(=O)C1=CC(=C(C(=C1)OC)OC)OC | C19H20O6
reactant | BF3.Et2O | 2.52 mL | B(F)(F)F.CCOCC
reactant | hydroxylamine hydrochloride | 4.6 mmol, 0.32 g | Cl.NO
reactant | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | ether | 15 mL | CCOCC | C4H10O
product | 4-(4-Methoxy-phenyl)-5-(3,4,5-trimethoxy-phenyl)-isoxazole | COC1=CC=C(C=C1)C=1C=NOC1C1=CC(=C(C(=C1)OC)OC)OC | C19H19NO5
